US07754744B2
Step 2: (3-Chloro-isoquinolin-1-yl)-piperidin-4-yl-amine dihydrochloride
A solution of 4-(3-chloro-isoquinolin-1-ylamino)-piperidine-1-carboxylic acid tert-butyl ester (1.14 g, 3.15 mmol) in 4 M HCl in dioxane (100 mL) was stirred at rt for 1 h. The solvent was removed under reduced pressure and the crude product used in the consecutive step without further purification assuming quantitative deprotection and formation of the dihydrochloride salt. MS (ISP): 262.3 [M+H]+.

reactant | 4-(3-chloro-isoquinolin-1-ylamino)-piperidine-1-carboxylic acid tert-butyl ester | 3.15 mmol, 1.14 g | C(C)(C)(C)OC(=O)N1CCC(CC1)NC1=NC(=CC2=CC=CC=C12)Cl | C19H24ClN3O2
solvent | HCl | 4 M | Cl | ClH
solvent | dioxane | 100 mL | O1CCOCC1 | C4H8O2
product | (3-Chloro-isoquinolin-1-yl)-piperidin-4-yl-amine dihydrochloride | Cl.Cl.ClC=1N=C(C2=CC=CC=C2C1)NC1CCNCC1 | InChI=1S/C14H16ClN3.2ClH/c15-13-9-10-3-1-2-4-12(10)14(18-13)17-11-5-7-16-8-6-11;;/h1-4,9,11,16H,5-8H2,(H,17,18);2*1H
